US04038281
5.1 g. of (4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]pyridin-5-yl)phenylmethanone (0.02 mol.), 4.8 g. of dimethylaminopropyl chloride (0.04 mol.) and 5.6 g. of potassium carbonate (0.04 mol.) are heated in 50 ml. of dimethylformamide at 80° for 12 hours with stirring. The mixture is filtered hot, evaporated to dryness and the residue is recrystallized from ethyl acetate to obtain 5-benzoyl-7-[3-(dimethylamino)Propyl]-2,7-dihydro-2-methyl-4H-pyrazolo[3,4-b]pyridin-4-one, yield 4.6 g. (68%); m.p. 186°-188°.

reactant | (4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]pyridin-5-yl)phenylmethanone | 0.02 mol | OC=1C=2C(N=CC1C(=O)C1=CC=CC=C1)=NN(C2)C | C14H11N3O2
reactant | dimethylaminopropyl chloride | 0.04 mol | CN(C)CCCCl | C5H12ClN
reactant | potassium carbonate | 0.04 mol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-benzoyl-7-[3-(dimethylamino)Propyl]-2,7-dihydro-2-methyl-4H-pyrazolo[3,4-b]pyridin-4-one | C(C1=CC=CC=C1)(=O)C=1C(C=2C(N(C1)CCCN(C)C)=NN(C2)C)=O | C19H22N4O2
